US07166616B2
(4-acetylamino-phenyl)-acetic acid
A mixture of (4-amino-phenyl)-acetic acid (25 g) in acetic acid (200 mL) was treated with acetic anhydride (31.3 mL). The mixture was heated on a steam bath for 4 hours, then cooled, then treated with water (20 mL) and then evaporated. The residue was dried under vacuum to give the title compound (30.4 g) as a beige coloured solid.

reactant | (4-amino-phenyl)-acetic acid | 25 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | acetic anhydride | 31.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 20 mL | O | H2O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | (4-acetylamino-phenyl)-acetic acid | 30.4 g | C(C)(=O)NC1=CC=C(C=C1)CC(=O)O | C10H11NO3
